US06194420B1
Potassium carbonate and 2 equivalents of phthalimide are ground together and heated to reflux with 2 equivalents of 1,2-dichloro-3-chloromethyl-4-nitrobenzene for three hours. Upon cooling, the substituted benzylphthalimide crystallizes and is filtered in 60-80% yield. 2,3-Dichloro-6-nitrobenzylamine is obtained in a 75-95% yield with acid hydrolysis using hydrochloric acid from the substituted benzylphthalimide.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phthalimide | 2 equivalents | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 1,2-dichloro-3-chloromethyl-4-nitrobenzene | 2 equivalents | ClC1=C(C(=C(C=C1)[N+](=O)[O-])CCl)Cl | C7H4Cl3NO2
product | 2,3-Dichloro-6-nitrobenzylamine | 75-95% yield | ClC1=C(CN)C(=CC=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
